US07507734B2
(c) 1-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-ethanone
250 mg of 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-ethanone and 232 mg of tetrakis(triphenylphosphine) palladium (0) are dissolved in 5 ml DME and the solution is stirred for 5 min at RT under argon. 400 mg of 2,6-Dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol and 1.4 ml of a 2M aqueous solution of sodium carbonate are added and the reaction solution is stirred at 95° C. for 4 h. The reaction solution is filtered through a silica gel cartridge, eluting with dichloromethane. The solvent is removed under reduced pressure. The product is purified by silica gel chromatography, eluting with a gradient of ethyl acetate in heptane. Yield 334 mg. LC-MS (ES+) 273 (M+H)+.

reactant | 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-ethanone | 250 mg | ClC1=CC(=C(N=N1)OC)C(C)=O | C7H7ClN2O2
reactant | 2,6-Dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 400 mg | CC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)O | C14H21BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 5 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 232 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-ethanone | OC1=C(C=C(C=C1C)C1=CC(=C(N=N1)OC)C(C)=O)C | C15H16N2O3
